US07951838B2
A solution tert-butyl (1S,2S)-1-(tert-butyldimethylsilyloxy)-3-(7-chlorobenzo[d][1,3]dioxol-5-yl)-1-(thiazol-2-yl)propan-2-ylcarbamate (1.85 g, 3.51 mmol) in MeCN (14 mL) was treated with 4 A mol. seives and was allowed to stir at RT for 10 minutes. Methyl trifluoromethanesulfonate (0.464 ml, 4.21 mmol) was added, and the reaction mixture was allowed to stir for 30 minutes. The reaction mixture was then concentrated under reduced pressure, and the crude residual material was dissolved in MeOH (14 mL), and cooled to 0° C. The mixture was then treated with sodium borohydride (0.398 g, 10.5 mmol) and allowed to warm to RT and stir for an additional 20 minutes. The reaction mixture was diluted with EtOAc, filtered through celite and concentrated under reduced pressure. The residue was dissolved in MeCN (10 mL) and water (4 mL) and was treated with mercury(II) chloride (0.953 g, 3.51 mmol). After stirring for 30 minutes the reaction mixture was diluted with ether and filtered through a short plug of silica. The filtrate was then concentrated under reduced pressure and the crude residue was purified by column chromatography yielding tert-butyl (2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(7-chlorobenzo[d][1,3]dioxol-5-yl)-4-oxobutan-2-ylcarbamate.

reactant | tert-butyl (1S,2S)-1-(tert-butyldimethylsilyloxy)-3-(7-chlorobenzo[d][1,3]dioxol-5-yl)-1-(thiazol-2-yl)propan-2-ylcarbamate | 3.51 mmol, 1.85 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC2=C(OCO2)C(=C1)Cl)NC(OC(C)(C)C)=O)C=1SC=CN1 | C24H35ClN2O5SSi
reactant | Methyl trifluoromethanesulfonate | 4.21 mmol, 0.464 ml | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | sodium borohydride | 10.5 mmol, 0.398 g | [BH4-].[Na+]
reactant | water | 4 mL | O | H2O
solvent | MeCN | 14 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ether | CCOCC | C4H10O
catalyst | mercury(II) chloride | 3.51 mmol, 0.953 g | [Hg](Cl)Cl
product | tert-butyl (2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(7-chlorobenzo[d][1,3]dioxol-5-yl)-4-oxobutan-2-ylcarbamate | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC2=C(OCO2)C(=C1)Cl)NC(OC(C)(C)C)=O)C=O | C22H34ClNO6Si
